US04276305
2.6 g of cyclopropane carboxylic acid chloride are added over 5 minutes to a solution of 2.0 g of sodium hydrogen sulfide in 20 ml of ethanol which is cooled in ice. After 30 minutes, 5.5 g of 2-bromomethylnaphthalene are added. Then 10 ml of 10% sodium hydroxide are slowly added dropwise at room temperature. After 1 hour stirring at room temperature, 25 ml of dichloromethane are added and the solution is washed twice with 10% potassium bicarbonate solution and saturated sodium chloride solution, dried over sodium sulfate and evaporated. The residue is purified by chromatography on silica gel to yield pure cyclopropane thiolcarboxylic acid 2-naphthylmethyl ester.

reactant | cyclopropane carboxylic acid chloride | 2.6 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium hydrogen sulfide | 2.0 g | S.[Na]
reactant | 2-bromomethylnaphthalene | 5.5 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | cyclopropane thiolcarboxylic acid 2-naphthylmethyl ester | C1=C(C=CC2=CC=CC=C12)COC(=O)C=1SC=CC1.C1CC1 | InChI=1S/C16H12O2S.C3H6/c17-16(15-6-3-9-19-15)18-11-12-7-8-13-4-1-2-5-14(13)10-12;1-2-3-1/h1-10H,11H2;1-3H2
